US08252806B2
Cyclohexyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride (Compound A8)
Was prepared according to Method A from 2,4-dichloroquinazoline, cyclohexylamine and 3,5-dimethylpyrazole Mp. 137.6-142.7° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | Cyclohexyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride | Cl.C1(CCCCC1)NC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1C)C | InChI=1S/C19H23N5.ClH/c1-13-12-14(2)24(23-13)19-21-17-11-7-6-10-16(17)18(22-19)20-15-8-4-3-5-9-15;/h6-7,10-12,15H,3-5,8-9H2,1-2H3,(H,20,21,22);1H
